US05308853
Methyl 4-[[2-Butyl-5-[(3-Butyl-2,5-Dioxo-4-Imidazolidinyl) Hydroxymethyl]-1H-Imidazol-1-yl]Methyl]Benzoate
To a suspension of 1-Butyl-2,4-imidazolidinedione (0.600 g, 4.17 mmol) in THF (15ml) at -78° C. is added lithium diisopropylamide (2.1 equiv.). After stirring for 20 minutes a solution of methyl 4-[(2-butyl-5-formyl-1H-imidazol-1-yl)methyl]benzoate (1.250 g, 4.17 mmol) in THF (10 mL) is added dropwise over 10 minutes to form an orange solution. This solution is stirred for a further 20 minutes at -78° C. and is then added to aqueous ammonium chloride. This mixture is evaporated in vacuo and then extracted into ethyl acetate. After washing with water and then brine the solution is dried over Na2SO4. Evaporation in vacuo and chromatography, eluant 5% methanol in chloroform, affords the required product. Recrystallized from ethyl acetate containing traces of methanol.

reactant | 1-Butyl-2,4-imidazolidinedione | 4.17 mmol, 0.600 g | C(CCC)N1C(NC(C1)=O)=O | C7H12N2O2
reactant | lithium diisopropylamide | 2.1 equiv. | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl 4-[(2-butyl-5-formyl-1H-imidazol-1-yl)methyl]benzoate | 4.17 mmol, 1.250 g | C(CCC)C=1N(C(=CN1)C=O)CC1=CC=C(C(=O)OC)C=C1 | C17H20N2O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 15ml | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Methyl 4-[[2-Butyl-5-[(3-Butyl-2,5-Dioxo-4-Imidazolidinyl) Hydroxymethyl]-1H-Imidazol-1-yl]Methyl]Benzoate | C(CCC)C=1N(C(=CN1)C(O)C1N(C(NC1=O)=O)CCCC)CC1=CC=C(C(=O)OC)C=C1 | C24H32N4O5
